US04617395
The procedure described in Example 1 was followed, except that 107 g/hour of 4-toluidine and 84 g/hour of methacrolein were employed. The product was distilled off under 5 mbar until the bottom temperature reached 250° C., and 110 g (70% of theory) of 3,6-dimethylquinoline of melting point 50° C. were obtained by crystallization with xylene.

reactant | 4-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | methacrolein | O=CC(C)=C | C4H6O
product | 3,6-dimethylquinoline | 110 g, 70% | CC=1C=NC2=CC=C(C=C2C1)C | C11H11N
